US06063806
N-[1-Acetyl-3-(2-ethoxycarbonylethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide (2.6 g) was dissolved in EtOH (40 ml), and a solution of KOH (1.3 g) in water (10 ml) was added, which was followed by refluxing for 20 hr. EtOH was evaporated under reduced pressure, and the mixture was adjusted to pH 5 with 2N hydrochloric acid and extracted with CHCl3 (100 ml). The CHCl3 layer was washed with water and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure to give 1.5 g of N-[3-(2-carboxyethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide.

reactant | N-[1-Acetyl-3-(2-ethoxycarbonylethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide | 2.6 g | C(C)(=O)N1CC(C2=C(C=C(C(=C12)NC(C(C)(C)C)=O)C)C)CCC(=O)OCC | C22H32N2O4
reactant | KOH | 1.3 g | [OH-].[K+]
solvent | EtOH | 40 ml | CCO | C2H6O
solvent | water | 10 ml | O | H2O
product | N-[3-(2-carboxyethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide | 1.5 g | C(=O)(O)CCC1CNC2=C(C(=CC(=C12)C)C)NC(C(C)(C)C)=O | C18H26N2O3
